US07041687B2
7-Chloro-5-nitro-1H-indazole:
To a solution of 2-chloro-6-methyl-4-nitroaniline (5.49 g, 29.4 mmole) in acetic acid (150 mL) was added sodium nitrite (2.03 g, 29.4 mmole) pre-dissolved in water (5 mL). The resulting brown slurry was stirred overnight at room temperature, then at 60° C. for a further 4 hours. The bulk of the solvent was removed by evaporation in-vacuo and the resulting black residue re-dissolved in EtOAc (100 mL) and washed in brine (2×70 mL). The organic layer was dried (MgSO4), filtered and concentrated to give a mixture of starting material and product 91 mg(1.49 g). The crude mixture was taken through to the next step; 1H NMR (400 MHz, DMSO) δ 8.25(1H, s), 8.50(1H, s), 8.85(1H, s), 14.30(1H, br s).MS (ES+): m/e=198 (minus Boc).

reactant | 2-chloro-6-methyl-4-nitroaniline | 29.4 mmole, 5.49 g | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])C | C7H7ClN2O2
reactant | sodium nitrite | 29.4 mmole, 2.03 g | N(=O)[O-].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | 7-Chloro-5-nitro-1H-indazole | ClC=1C=C(C=C2C=NNC12)[N+](=O)[O-] | C7H4ClN3O2
